### PR TITLE
feat(SimpleGraph): hamiltonian cycle from cyclic permutation

### PR DESCRIPTION
**Pull request by jessealama**
This PR provides `IsHamiltonian.of_perm`, a bridge from `Equiv.Perm.IsCycle` to `SimpleGraph.IsHamiltonian`: if σ is a permutation that is a single cycle with full support on at least 3 elements, and each step `v → σ v` is an edge of `G`, then `G` is Hamiltonian.

### New definitions and lemmas

**`Mathlib/Data/List/Chain.lean`**:
- `IsChain.iterate`: `List.iterate f a n` is a chain under `r` whenever `r a (f a)` holds for all `a`

**`Mathlib/Data/List/Iterate.lean`**:
- `getLast_iterate`: the last element of `List.iterate f a n` is `f^[n - 1] a`

**`Mathlib/Combinatorics/SimpleGraph/Walk/Iterate.lean`** (new file):
- `Walk.iterate`: builds a walk of length `n` from `x` to `f^[n] x` for any function `f` with `G.Adj x (f x)` for all `x`, defined via `Walk.ofSupport`
- `Walk.length_iterate`, `Walk.support_iterate`, `Walk.edges_iterate`: basic API

**`Mathlib/GroupTheory/Perm/Cycle/Basic.lean`**:
- `IsCycleOn.injOn_pow_apply`: the map `n ↦ (f ^ n) a` is injective on `Finset.range #s`

**`Mathlib/GroupTheory/Perm/Cycle/Concrete.lean`**:
- `IsCycleOn.injOn_sym2_pow_apply`: the unordered-pair edge map `k ↦ s((f ^ k) a, (f ^ (k + 1)) a)` is injective on `[0, #s)` when `#s ≠ 2`
- `IsCycleOn.sym2_pow_apply_ne`: edge distinctness for cycle-on permutations — `s((f ^ k) a, (f ^ (k + 1)) a) ≠ s(a, f a)` when `k ≠ 0`, `k < #s`, and `#s ≠ 2`
- `Perm.toList_eq_range_map_pow`: expresses `toList` as a range map over powers

**`Mathlib/Combinatorics/SimpleGraph/Hamiltonian.lean`**:
- `cons_isHamiltonianCycle_iff`: a Hamiltonian path closed by an edge outside its support is a Hamiltonian cycle, and conversely
- `IsHamiltonian.of_perm`: the main theorem

---

- [x] depends on: #36307
- [ ] depends on: #35255
- [ ] depends on: #34799

### CODE REVIEW

**Comment by SnirBroshi** [comment]
Hello 👋

`ofPerm` looks cool, though its definition and most of its API seem unrelated to Hamiltonian walks, so should probably be moved to somewhere in `Walks/`.

Additionally, `ofPerm` and its properties don't seem to rely on it being a permutation, and should work for any function `f : V → V` (you'd just have to use the notation `f^[n]` rather than `σ^n`). The theorems that need `IsCycleOn`/`IsCycle` can take in a permutation `σ` and still use `ofPerm σ` since it coerces to a function.

Generalizing further, you're creating a walk from `(σ^0) x, (σ^1) x, ..., (σ^n) x`, which can be generalized to take in any list of vertices where adjacent elements are `Adj`. Every function can be turned into a list (e.g. `σ.toList x`, or `List.ofFn (f^[·] x : Fin n → V)`) but not the other way.
This is `Walk.ofSupport` from #36307. What do you think about using `Walk.ofSupport` for your Hamiltonian needs?

File: Mathlib/GroupTheory/Perm/Cycle/Basic.lean [hunk 1]
```diff
@@ -783,6 +792,10 @@ theorem IsCycleOn.pow_card_apply {s : Finset α} (hf : f.IsCycleOn s) (ha : a 
     (f ^ #s) a = a :=
   (hf.pow_apply_eq ha).2 dvd_rfl
 
+theorem IsCycleOn.pow_card_sub_one_apply {s : Finset α} (hf : f.IsCycleOn s) (ha : a ∈ s)
+    (hs : 1 ≤ #s) : (f ^ (#s - 1)) (f a) = a := by
+  rw [← mul_apply, ← pow_succ, Nat.sub_add_cancel hs, hf.pow_card_apply ha]
```
Comment (SnirBroshi) [inline Mathlib/GroupTheory/Perm/Cycle/Basic.lean]: This is `Equiv.Perm.pow_card_apply` + `pow_succ`, and seems very specific. Can you inline it instead? Same thing applies to `pow_fintypeCard_sub_one_apply`

File: Mathlib/GroupTheory/Perm/Cycle/Concrete.lean [hunk 2]
```diff
@@ -207,6 +207,11 @@ theorem toList_eq_nil_iff {p : Perm α} {x} : toList p x = [] ↔ x ∉ p.suppor
 @[simp]
 theorem length_toList : length (toList p x) = (cycleOf p x).support.card := by simp [toList]
 
+theorem toList_eq_range_map_pow :
+    toList p x = (List.range (cycleOf p x).support.card).map fun i => (p ^ i) x := by
+  rw [toList, ← List.range_map_iterate]
+  simp [iterate_eq_pow]
```
Comment (SnirBroshi) [inline Mathlib/GroupTheory/Perm/Cycle/Concrete.lean]:
```suggestion
  simp [toList, ← List.range_map_iterate, iterate_eq_pow]
```

File: Mathlib/GroupTheory/Perm/Cycle/Basic.lean (hunk 1 above)
Comment (jessealama) [reply Mathlib/GroupTheory/Perm/Cycle/Basic.lean]: Good point. Initially, I did have these inlined but factored them out into (admittedly pretty specific) toplevel lemmas. I'm happy to put them back inline.

File: Mathlib/Combinatorics/SimpleGraph/Walks/Iterate.lean [hunk 3]
```diff
@@ -0,0 +1,87 @@
+/-
+Copyright (c) 2023 Bhavik Mehta, Rishi Mehta, Linus Sommer. All rights reserved.
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Walks/Iterate.lean]:
```suggestion
Copyright (c) 2026 Jesse Alama. All rights reserved.
```

File: Mathlib/Combinatorics/SimpleGraph/Walks/Iterate.lean [hunk 4]
```diff
@@ -0,0 +1,87 @@
...
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Bhavik Mehta, Rishi Mehta, Linus Sommer, Yue Sun, Jesse Alama
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Walks/Iterate.lean]:
```suggestion
Authors: Jesse Alama
```

File: Mathlib/Combinatorics/SimpleGraph/Walks/Iterate.lean [hunk 5]
```diff
@@ -0,0 +1,87 @@
...
+    | zero => simp [Walk.ofFun]
+    | succ i =>
+      simp only [Walk.ofFun, getVert_cons_succ]
+      exact ih (f x) i (by omega)
+
+/-- The support of `Walk.ofFun` is `[x, f x, f^[2] x, ..., f^[n] x]`. -/
+theorem ofFun_support (f : α → α) (hadj : ∀ x, G.Adj x (f x))
+    (x : α) : ∀ n,
+    (Walk.ofFun f hadj x n).support =
+      (List.range (n + 1)).map fun i => f^[i] x
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Walks/Iterate.lean]:
```suggestion
      List.iterate f x (n + 1)
```

File: Mathlib/Combinatorics/SimpleGraph/Walks/Iterate.lean [hunk 6]
```diff
@@ -0,0 +1,87 @@
...
+
+public import Mathlib.Combinatorics.SimpleGraph.Walks.Operations
+
+/-!
+# Walks from iterated functions
+
+Given a function `f : α → α` such that `G.Adj x (f x)` for all `x`,
+we construct a walk of length `n` from `x` to `f^[n] x`.
+
+This generalises the construction from permutations (`Equiv.Perm`)
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Walks/Iterate.lean]: This paragraph seems irrelevant

File: Mathlib/Combinatorics/SimpleGraph/Hamiltonian.lean [hunk 7]
```diff
@@ -26,6 +28,41 @@ In this file we introduce Hamiltonian paths, cycles and graphs.
...
+    s((σ ^ k) x, (σ ^ (k + 1)) x) ≠ s(x, σ x) := by
+  have hinj := hcycOn.injOn_pow_apply (Finset.mem_univ x)
+  rw [Finset.card_univ] at hinj
+  intro heq
+  rw [Sym2.eq_iff] at heq
+  rcases heq with ⟨h1, h2⟩ | ⟨h1, h2⟩
+  · -- Injectivity: (σ^k) x = (σ^0) x gives k = 0, contradicts 1 ≤ k
+    have : k = 0 := @hinj k (Finset.mem_range.mpr hk2) 0
+      (Finset.mem_range.mpr (by omega)) (by simpa using h1)
+    omega
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Hamiltonian.lean]: Prefer `lia` over `omega` where possible, it's intended to replace it

File: Mathlib/Combinatorics/SimpleGraph/Hamiltonian.lean [hunk 8]
```diff
@@ -271,4 +308,51 @@ theorem not_isHamiltonian_of_isBridge (G : SimpleGraph V)
...
+  set w := Walk.cons (hadj x) p
+  refine ⟨x, w, ?_⟩
+  rw [Walk.isHamiltonianCycle_iff_isCycle_and_length_eq]
+  constructor
+  · rw [Walk.cons_isCycle_iff]
+    constructor
+    · -- p is a path
+      rw [Walk.isPath_def]
+      simp only [p, Walk.support_copy, Walk.ofFun_support,
+        show n - 1 + 1 = n from by omega, Equiv.Perm.iterate_eq_pow]
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Hamiltonian.lean]:
```suggestion
        show n - 1 + 1 = n by omega, Equiv.Perm.iterate_eq_pow]
```

File: Mathlib/Combinatorics/SimpleGraph/Hamiltonian.lean [hunk 9]
```diff
@@ -271,4 +308,51 @@ theorem not_isHamiltonian_of_isBridge (G : SimpleGraph V)
...
+      have hsx : σ (σ x) ≠ σ x := fun h => hx (σ.injective h)
+      have hcard : n = (σ.cycleOf (σ x)).support.card := by
+        rw [hcycle.cycleOf_eq hsx, hsupport, Finset.card_univ]
+      rw [hcard, ← σ.toList_eq_range_map_pow]
+      exact σ.nodup_toList (σ x)
+    · -- s(x, σ x) ∉ p.edges
+      simp only [p, Walk.edges_copy, Walk.ofFun_edges]
+      rw [List.mem_map]; rintro ⟨i, hi, heq⟩; rw [List.mem_range] at hi
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Hamiltonian.lean]:
```suggestion
      rw [List.mem_map]
      rintro ⟨i, hi, heq⟩
      rw [List.mem_range] at hi
```

File: Mathlib/Combinatorics/SimpleGraph/Hamiltonian.lean [hunk 10]
```diff
@@ -271,4 +308,51 @@ theorem not_isHamiltonian_of_isBridge (G : SimpleGraph V)
...
+    change (↑σ)^[n - 1 + 1] x = x
+    rw [Nat.sub_add_cancel (by omega), Equiv.Perm.iterate_eq_pow,
+      hn_def, ← Finset.card_univ, hcycOn.pow_card_apply (Finset.mem_univ x)])
+  set w := Walk.cons (hadj x) p
+  refine ⟨x, w, ?_⟩
+  rw [Walk.isHamiltonianCycle_iff_isCycle_and_length_eq]
+  constructor
+  · rw [Walk.cons_isCycle_iff]
+    constructor
+    · -- p is a path
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Hamiltonian.lean]:
```suggestion
    · -- `p` is a path
```

File: Mathlib/Combinatorics/SimpleGraph/Hamiltonian.lean [hunk 11]
```diff
@@ -271,4 +308,51 @@ theorem not_isHamiltonian_of_isBridge (G : SimpleGraph V)
...
+      rw [Walk.isPath_def]
+      simp only [p, Walk.support_copy, Walk.ofFun_support,
+        show n - 1 + 1 = n from by omega, Equiv.Perm.iterate_eq_pow]
+      have hsx : σ (σ x) ≠ σ x := fun h => hx (σ.injective h)
+      have hcard : n = (σ.cycleOf (σ x)).support.card := by
+        rw [hcycle.cycleOf_eq hsx, hsupport, Finset.card_univ]
+      rw [hcard, ← σ.toList_eq_range_map_pow]
+      exact σ.nodup_toList (σ x)
+    · -- s(x, σ x) ∉ p.edges
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Hamiltonian.lean]:
```suggestion
    · -- `s(x, σ x) ∉ p.edges`
```

File: Mathlib/Combinatorics/SimpleGraph/Hamiltonian.lean [hunk 12]
```diff
@@ -26,6 +28,41 @@ In this file we introduce Hamiltonian paths, cycles and graphs.
...
+    (hcycOn : σ.IsCycleOn (Finset.univ : Finset α))
+    {k : ℕ} (hk1 : 1 ≤ k) (hk2 : k < Fintype.card α)
+    (hn3 : 3 ≤ Fintype.card α) :
+    s((σ ^ k) x, (σ ^ (k + 1)) x) ≠ s(x, σ x) := by
+  have hinj := hcycOn.injOn_pow_apply (Finset.mem_univ x)
+  rw [Finset.card_univ] at hinj
+  intro heq
+  rw [Sym2.eq_iff] at heq
+  rcases heq with ⟨h1, h2⟩ | ⟨h1, h2⟩
+  · -- Injectivity: (σ^k) x = (σ^0) x gives k = 0, contradicts 1 ≤ k
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Hamiltonian.lean]:
```suggestion
  · -- Injectivity: `(σ^k) x = (σ^0) x` gives `k = 0`, contradicts `1 ≤ k`
```

File: Mathlib/Combinatorics/SimpleGraph/Hamiltonian.lean [hunk 13]
```diff
@@ -26,6 +28,41 @@ In this file we introduce Hamiltonian paths, cycles and graphs.
...
+    have : k = 0 := @hinj k (Finset.mem_range.mpr hk2) 0
+      (Finset.mem_range.mpr (by omega)) (by simpa using h1)
+    omega
+  · -- Injectivity: (σ^k) x = (σ^1) x gives k = 1, then (σ^2) x = (σ^0) x gives 2 = 0
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Hamiltonian.lean]:
```suggestion
  · -- Injectivity: `(σ^k) x = (σ^1) x` gives `k = 1`, then `(σ^2) x = (σ^0) x` gives `2 = 0`
```

File: Mathlib/Combinatorics/SimpleGraph/Walks/Iterate.lean [hunk 14]
```diff
@@ -0,0 +1,87 @@
...
+
+namespace SimpleGraph
+
+namespace Walk
+
+variable {α : Type*} {G : SimpleGraph α}
+
+/-- Build a walk of length `n` from `x` to `f^[n] x` following `f`,
+given that each step is adjacent in `G`. -/
+def ofFun (f : α → α) (hadj : ∀ x, G.Adj x (f x))
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Walks/Iterate.lean]:
```suggestion
def iterate (f : α → α) (hadj : ∀ x, G.Adj x (f x))
```
This matches `List.iterate` as opposed to `List.ofFn`, and also matches this file's name

Comment (jessealama) [reply Mathlib/Combinatorics/SimpleGraph/Walks/Iterate.lean]: Good point! Done

File: Mathlib/Combinatorics/SimpleGraph/Hamiltonian.lean (hunk 7 above)
Comment (jessealama) [reply Mathlib/Combinatorics/SimpleGraph/Hamiltonian.lean]: Ah, OK, that sounds good. I wasn't aware of that. Done

File: Mathlib/Combinatorics/SimpleGraph/Walks/Iterate.lean (hunk 6 above)
Comment (jessealama) [reply Mathlib/Combinatorics/SimpleGraph/Walks/Iterate.lean]: True, thanks. I've removed it.

File: Mathlib/Combinatorics/SimpleGraph/Walks/Iterate.lean [hunk 15]
```diff
@@ -0,0 +1,68 @@
...
+namespace SimpleGraph
+
+namespace Walk
+
+variable {α : Type*} {G : SimpleGraph α}
+
+/-- Build a walk of length `n` from `x` to `f^[n] x` following `f`,
+given that each step is adjacent in `G`. -/
+def iterate (f : α → α) (hadj : ∀ x, G.Adj x (f x))
+    (x : α) : (n : ℕ) → G.Walk x (f^[n] x)
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Walks/Iterate.lean]:
```suggestion
def iterate (f : α → α) (hadj : ∀ x, G.Adj x (f x)) (x : α) : (n : ℕ) → G.Walk x (f^[n] x)
```

File: Mathlib/Combinatorics/SimpleGraph/Walks/Iterate.lean [hunk 16]
```diff
@@ -0,0 +1,68 @@
...
+  | 0 => .nil
+  | n + 1 => Walk.cons (hadj x) (Walk.iterate f hadj (f x) n)
+
+/-- The walk built by `Walk.iterate` has length `n`. -/
+@[simp]
+theorem iterate_length (f : α → α) (hadj : ∀ x, G.Adj x (f x))
+    (x : α) (n : ℕ) : (Walk.iterate f hadj x n).length = n := by
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Walks/Iterate.lean]:
```suggestion
theorem iterate_length (f : α → α) (hadj : ∀ x, G.Adj x (f x)) (x : α) (n : ℕ) :
    (iterate f hadj x n).length = n := by
```

File: Mathlib/Combinatorics/SimpleGraph/Walks/Iterate.lean [hunk 17]
```diff
@@ -0,0 +1,68 @@
...
+  induction n generalizing x with
+  | zero => rfl
+  | succ n ih => simp [Walk.iterate, ih]
+
+/-- The support of `Walk.iterate` is `[x, f x, f^[2] x, ..., f^[n] x]`. -/
+theorem iterate_support (f : α → α) (hadj : ∀ x, G.Adj x (f x))
+    (x : α) : ∀ n,
+    (Walk.iterate f hadj x n).support =
+      List.iterate f x (n + 1)
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Walks/Iterate.lean]:
```suggestion
theorem iterate_support (f : α → α) (hadj : ∀ x, G.Adj x (f x)) (x : α) :
    ∀ n, (iterate f hadj x n).support = List.iterate f x (n + 1)
```

File: Mathlib/Combinatorics/SimpleGraph/Walks/Iterate.lean [hunk 18]
```diff
@@ -0,0 +1,68 @@
...
+  | n + 1 => by
+    change x :: (Walk.iterate f hadj (f x) n).support = _
+    rw [Walk.iterate_support f hadj (f x) n]
+    simp
+
+/-- The edges of `Walk.iterate` are `s(f^[i] x, f^[i+1] x)` for `i < n`. -/
+theorem iterate_edges (f : α → α) (hadj : ∀ x, G.Adj x (f x))
+    (x : α) : ∀ n,
+    (Walk.iterate f hadj x n).edges =
+      (List.range n).map fun i => s(f^[i] x, f^[i + 1] x)
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Walks/Iterate.lean]:
```suggestion
theorem iterate_edges (f : α → α) (hadj : ∀ x, G.Adj x (f x)) (x : α) :
    ∀ n, (iterate f hadj x n).edges = (List.range n).map fun i ↦ s(f^[i] x, f^[i + 1] x)
```

File: Mathlib/Combinatorics/SimpleGraph/Walks/Iterate.lean [hunk 19]
```diff
@@ -0,0 +1,68 @@
...
+namespace Walk
+
+variable {α : Type*} {G : SimpleGraph α}
+
+/-- Build a walk of length `n` from `x` to `f^[n] x` following `f`,
+given that each step is adjacent in `G`. -/
+def iterate (f : α → α) (hadj : ∀ x, G.Adj x (f x))
+    (x : α) : (n : ℕ) → G.Walk x (f^[n] x)
+  | 0 => .nil
+  | n + 1 => Walk.cons (hadj x) (Walk.iterate f hadj (f x) n)
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Walks/Iterate.lean]:
```suggestion
  | n + 1 => .cons (hadj x) <| .iterate f hadj (f x) n
```

File: Mathlib/Combinatorics/SimpleGraph/Walks/Iterate.lean [hunk 20]
```diff
@@ -0,0 +1,68 @@
...
+
+/-- The walk built by `Walk.iterate` has length `n`. -/
+@[simp]
+theorem iterate_length (f : α → α) (hadj : ∀ x, G.Adj x (f x))
+    (x : α) (n : ℕ) : (Walk.iterate f hadj x n).length = n := by
+  induction n generalizing x with
+  | zero => rfl
+  | succ n ih => simp [Walk.iterate, ih]
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Walks/Iterate.lean]:
```suggestion
  | succ n ih => simp [iterate, ih]
```

File: Mathlib/Combinatorics/SimpleGraph/Walks/Iterate.lean [hunk 21]
```diff
@@ -0,0 +1,68 @@
...
+
+/-- The support of `Walk.iterate` is `[x, f x, f^[2] x, ..., f^[n] x]`. -/
+theorem iterate_support (f : α → α) (hadj : ∀ x, G.Adj x (f x))
+    (x : α) : ∀ n,
+    (Walk.iterate f hadj x n).support =
+      List.iterate f x (n + 1)
+  | 0 => rfl
+  | n + 1 => by
+    change x :: (Walk.iterate f hadj (f x) n).support = _
+    rw [Walk.iterate_support f hadj (f x) n]
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Walks/Iterate.lean]:
```suggestion
    change x :: (iterate f hadj (f x) n).support = _
    rw [iterate_support f hadj (f x) n]
```

File: Mathlib/Combinatorics/SimpleGraph/Walks/Iterate.lean [hunk 22]
```diff
@@ -0,0 +1,68 @@
...
+
+/-- The edges of `Walk.iterate` are `s(f^[i] x, f^[i+1] x)` for `i < n`. -/
+theorem iterate_edges (f : α → α) (hadj : ∀ x, G.Adj x (f x))
+    (x : α) : ∀ n,
+    (Walk.iterate f hadj x n).edges =
+      (List.range n).map fun i => s(f^[i] x, f^[i + 1] x)
+  | 0 => rfl
+  | n + 1 => by
+    change s(x, f x) :: (Walk.iterate f hadj (f x) n).edges = _
+    rw [Walk.iterate_edges f hadj (f x) n]
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Walks/Iterate.lean]:
```suggestion
    change s(x, f x) :: (iterate f hadj (f x) n).edges = _
    rw [iterate_edges f hadj (f x) n]
```

File: Mathlib/GroupTheory/Perm/Cycle/Basic.lean [hunk 23]
```diff
@@ -774,6 +774,15 @@ theorem IsCycleOn.pow_apply_eq_pow_apply {s : Finset α} (hf : f.IsCycleOn s) (h
...
   simp [sub_eq_neg_add, zpow_add, eq_symm_apply, eq_comm]
 
+/-- The map `n ↦ (f ^ n) a` is injective on `Finset.range #s` when `f.IsCycleOn s`
+and `a ∈ s`. -/
+theorem IsCycleOn.injOn_pow_apply {s : Finset α} (hf : f.IsCycleOn s) (ha : a ∈ s) :
+    Set.InjOn (fun n => (f ^ n) a) (Finset.range #s) := by
+  intro m hm n hn heq
+  rw [Finset.coe_range, Set.mem_Iio] at hm hn
+  exact Nat.ext_div_modEq (by simp [Nat.div_eq_of_lt, hm, hn])
+    ((hf.pow_apply_eq_pow_apply ha).mp heq)
```
Comment (SnirBroshi) [inline Mathlib/GroupTheory/Perm/Cycle/Basic.lean]:
```suggestion
theorem IsCycleOn.injOn_pow_apply {s : Finset α} (hf : f.IsCycleOn s) (ha : a ∈ s) :
    Set.InjOn (fun n ↦ (f ^ n) a) (Finset.range #s) := by
  grind [Set.InjOn, IsCycleOn.pow_apply_eq_pow_apply hf ha, Nat.ModEq.eq_of_lt_of_lt]
```
or
```suggestion
theorem IsCycleOn.injOn_pow_apply {s : Finset α} (hf : f.IsCycleOn s) (ha : a ∈ s) :
    Set.InjOn (fun n ↦ (f ^ n) a) (Finset.range #s) := by
  intro m hm n hn heq
  apply IsCycleOn.pow_apply_eq_pow_apply hf ha |>.mp heq |>.eq_of_lt_of_lt
  · simpa using hm
  · simpa using hn
```
or
```suggestion
theorem IsCycleOn.injOn_pow_apply {s : Finset α} (hf : f.IsCycleOn s) (ha : a ∈ s) :
    Set.InjOn (fun n ↦ (f ^ n) a) (Finset.range #s) := by
  intro m hm n hn heq
  rw [Finset.coe_range, Set.mem_Iio] at hm hn
  rw [IsCycleOn.pow_apply_eq_pow_apply hf ha] at heq
  exact Nat.ModEq.eq_of_lt_of_lt heq hm hn
```

File: Mathlib/GroupTheory/Perm/Cycle/Basic.lean [hunk 24]
```diff
@@ -774,6 +774,15 @@ theorem IsCycleOn.pow_apply_eq_pow_apply {s : Finset α} (hf : f.IsCycleOn s) (h
   rw [Nat.modEq_iff_dvd, ← hf.zpow_apply_eq ha]
   simp [sub_eq_neg_add, zpow_add, eq_symm_apply, eq_comm]
 
+/-- The map `n ↦ (f ^ n) a` is injective on `Finset.range #s` when `f.IsCycleOn s`
+and `a ∈ s`. -/
+theorem IsCycleOn.injOn_pow_apply {s : Finset α} (hf : f.IsCycleOn s) (ha : a ∈ s) :
```
Comment (SnirBroshi) [inline Mathlib/GroupTheory/Perm/Cycle/Basic.lean:778]: Can you move this theorem below `zpow_apply_eq_zpow_apply`? I think it makes sense for `zpow_apply_eq_zpow_apply` and `pow_apply_eq_pow_apply` to stay together

Comment (jessealama) [reply Mathlib/GroupTheory/Perm/Cycle/Basic.lean:778]: Makes sense; done!

File: Mathlib/Combinatorics/SimpleGraph/Hamiltonian.lean [hunk 25]
```diff
@@ -29,6 +31,29 @@ open Finset Function
...
+    s((σ ^ k) x, (σ ^ (k + 1)) x) ≠ s(x, σ x) := by
+  have hinj := hcycOn.injOn_pow_apply (Finset.mem_univ x)
+  rw [Finset.card_univ] at hinj
+  have h0 : (σ ^ (0 : ℕ)) x = x := by simp
+  have h1 : (σ ^ (1 : ℕ)) x = σ x := by simp
+  intro heq
+  rw [Sym2.eq_iff] at heq
+  grind [Set.InjOn]
+
+end Perm
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Hamiltonian.lean]: This has nothing to do with `SimpleGraph`, right? Can you move to an earlier file?

File: Mathlib/Combinatorics/SimpleGraph/Hamiltonian.lean [hunk 26]
```diff
@@ -281,4 +306,48 @@ theorem IsBridge.not_isHamiltonian {e : Sym2 α} (he : G.IsBridge e) : ¬G.IsHam
...
   apply hp.isTrail.isEdgeReachable_two <;> simp
 
+section Perm
+
+open Equiv Equiv.Perm
+
+variable {α : Type*} [Fintype α] [DecidableEq α] {G : SimpleGraph α}
+
+/-- If `σ` is a cycle with full support on at least 3 elements and every step is
+a graph edge, then `G` is Hamiltonian. -/
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Hamiltonian.lean]:
```suggestion
/-- Given a cyclic permutation with full support on at least 3 elements which sends each
vertex to an adjacent one, then the graph is hamiltonian. -/
```

File: Mathlib/Combinatorics/SimpleGraph/Hamiltonian.lean [hunk 27]
```diff
@@ -281,4 +306,48 @@ theorem IsBridge.not_isHamiltonian {e : Sym2 α} (he : G.IsBridge e) : ¬G.IsHam
...
+    simp only [Equiv.Perm.iterate_eq_pow, ← σ.toList_eq_range_map_pow]
+    exact σ.nodup_toList (σ x)
+  · simp only [p, Walk.edges_copy, Walk.edges_iterate]
+    rw [List.mem_map]
+    rintro ⟨i, hi, heq⟩
+    rw [List.mem_range] at hi
+    simp only [Equiv.Perm.iterate_eq_pow, ← mul_apply, ← pow_succ] at heq
+    exact edge_ne_of_isCycleOn hcycOn (by omega) (by omega) hcard3 heq
+  · simp only [Walk.length_cons, p, Walk.length_copy, Walk.length_iterate]
+    omega
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Hamiltonian.lean]: Can you extract this as a lemma saying `.cons (hadj x) ...` is a hamiltonian cycle?

File: Mathlib/Data/List/Chain.lean [hunk 28]
```diff
@@ -444,6 +444,16 @@ lemma IsChain.iterate_eq_of_apply_eq {α : Type*} {f : α → α} {l : List α}
...
 
+/-- If `r a (f a)` holds for every `a`, then `List.iterate f a n` is a chain under `r`. -/
+theorem isChain_iterate {f : α → α} (a : α) (n : ℕ) (h : ∀ a, r a (f a)) :
+    IsChain r (iterate f a n) := by
+  induction n generalizing a with
+  | zero => exact .nil
+  | succ n ih =>
+    match n with
+    | 0 => exact .singleton _
+    | n + 1 => exact .cons_cons (h a) (ih (f a))
```
Comment (YaelDillies) [inline Mathlib/Data/List/Chain.lean]:
```suggestion
theorem isChain_iterate {f : α → α} (a : α) (h : ∀ a, r a (f a)) :
    \for n, IsChain r (iterate f a n)
  | 0 => .nil
  | 1 => .singleton _
  | n + 2 => .cons_cons (h a) (isChain_iterate (f a))
```

File: Mathlib/GroupTheory/Perm/Cycle/Basic.lean [hunk 29]
```diff
@@ -773,6 +773,12 @@ theorem IsCycleOn.zpow_apply_eq_zpow_apply {s : Finset α} (hf : f.IsCycleOn s)
   rw [Int.modEq_iff_dvd, ← hf.zpow_apply_eq ha]
   simp [sub_eq_neg_add, zpow_add, eq_symm_apply, eq_comm]
 
+/-- The map `n ↦ (f ^ n) a` is injective on `Finset.range #s` when `f.IsCycleOn s`
+and `a ∈ s`. -/
+theorem IsCycleOn.injOn_pow_apply {s : Finset α} (hf : f.IsCycleOn s) (ha : a ∈ s) :
+    Set.InjOn (fun n ↦ (f ^ n) a) (Finset.range #s) := by
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/Perm/Cycle/Basic.lean]:
```suggestion
    Set.InjOn (fun n ↦ (f ^ n) a) (.Iio #s) := by
```

File: Mathlib/Combinatorics/SimpleGraph/Hamiltonian.lean (hunk 25 above)
Comment (jessealama) [reply Mathlib/Combinatorics/SimpleGraph/Hamiltonian.lean]: Good point. I did some digging around and discovered `Sym2`, which can be used to generalize the idea here. I put the refactored lemma in `Mathlib.GroupTheory.Perm.Cycle.Concrete`. Thanks! (Another case where I'm too zoomed in on the immediate task.)

File: Mathlib/Combinatorics/SimpleGraph/Hamiltonian.lean (hunk 27 above)
Comment (jessealama) [reply Mathlib/Combinatorics/SimpleGraph/Hamiltonian.lean]: ~~Sounds good. I've pushed a version of this. This was a bit tricky to express crisply. I considered a couple of alternatives:~~

~~1. Abstracting the iteration count `n` (so we'd have `Fintype.card α = n + 1`) to remove the `Fintype.card α - 1` duplication. It cleaned up the conclusion of the lemma but added two extra hypotheses and made the call site clunkier, so I dropped it.~~
~~2. Reshaping the walk as `(Walk.iterate σ hadj x (Fintype.card α)).copy rfl h`, without `cons`, which gives a cleaner `σ^[card α] x = x`.~~

File: Mathlib/Data/List/Chain.lean (hunk 28 above)
Comment (jessealama) [reply Mathlib/Data/List/Chain.lean]: I didn't like the induction cases `0`, then the `1` case handled via `match` in the induction hypothesis, but didn't know another way. Thanks!

File: Mathlib/Combinatorics/SimpleGraph/Hamiltonian.lean (hunk 26 above)
Comment (jessealama) [reply Mathlib/Combinatorics/SimpleGraph/Hamiltonian.lean]: I've reworded the result as suggested.

**Comment by jessealama** [comment]
-awaiting-author

File: Mathlib/Combinatorics/SimpleGraph/Hamiltonian.lean [hunk 30]
```diff
@@ -281,4 +291,49 @@ theorem IsBridge.not_isHamiltonian {e : Sym2 α} (he : G.IsBridge e) : ¬G.IsHam
...
+    (hadj : ∀ x, G.Adj x (σ x))
+    (hcard3 : 3 ≤ Fintype.card α) : G.IsHamiltonian := by
+  intro _
+  obtain ⟨x, hx_mem⟩ := hcycle.nonempty_support
+  have hx : σ x ≠ x := σ.mem_support.mp hx_mem
+  have hcycOn : σ.IsCycleOn (Finset.univ : Finset α) :=
+    hsupport ▸ σ.coe_support_eq_set_support ▸ hcycle.isCycleOn
+  set p : G.Walk (σ x) x := (Walk.iterate (↑σ) hadj (σ x) (Fintype.card α - 1)).copy rfl (by
+    change (↑σ : α → α)^[Fintype.card α - 1 + 1] x = x
+    rw [Nat.sub_add_cancel (by omega), Equiv.Perm.iterate_eq_pow,
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Hamiltonian.lean]:
```suggestion
    rw [Nat.sub_add_cancel (by lia), Equiv.Perm.iterate_eq_pow,
```
and similarly for the other `omega` usages (it's sort of being phased out)

File: Mathlib/Combinatorics/SimpleGraph/Hamiltonian.lean (hunk 27 above)
Comment (jessealama) [reply Mathlib/Combinatorics/SimpleGraph/Hamiltonian.lean]: On rereading your comment, I think you were pointing at a more general extraction than I understood and implemented in my first attempt. The actual idea is "Hamiltonian path + final edge = Hamiltonian cycle", with no permutations involved. I added that as `cons_isHamiltonianCycle_iff`, next to `cons_isCycle_iff`.

File: Mathlib/Combinatorics/SimpleGraph/Hamiltonian.lean [hunk 31]
```diff
@@ -207,6 +209,14 @@ lemma isHamiltonianCycle_iff_isCycle_and_length_eq [Fintype α] :
   refine isHamiltonian_iff_isPath_and_length_eq.mpr ⟨h₁.isPath_tail, ?_⟩
   grind [length_tail_add_one, IsCycle.not_nil]
 
+/-- A Hamiltonian path closed into a cycle by an edge is a Hamiltonian cycle, and conversely. -/
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Hamiltonian.lean]:
```suggestion
/-- A Hamiltonian path closed into a cycle by an edge outside its support is a Hamiltonian cycle, and conversely. -/
```

File: Mathlib/Combinatorics/SimpleGraph/Hamiltonian.lean [hunk 32]
```diff
@@ -281,4 +291,49 @@ theorem IsBridge.not_isHamiltonian {e : Sym2 α} (he : G.IsBridge e) : ¬G.IsHam
...
+section Perm
+
+open Equiv Equiv.Perm
+
+variable {α : Type*} [Fintype α] [DecidableEq α] {G : SimpleGraph α}
+
+/-- Given a cyclic permutation with full support on at least 3 elements which
+sends each vertex to an adjacent one, then the graph is hamiltonian. -/
+theorem IsHamiltonian.ofPerm {σ : Perm α}
+    (hcycle : σ.IsCycle) (hsupport : σ.support = Finset.univ)
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Hamiltonian.lean]:
```suggestion
    (hcycle : σ.IsCycle) (hsupport : σ.support = .univ)
```

File: Mathlib/Combinatorics/SimpleGraph/Hamiltonian.lean [hunk 33]
```diff
@@ -281,4 +291,49 @@ theorem IsBridge.not_isHamiltonian {e : Sym2 α} (he : G.IsBridge e) : ¬G.IsHam
...
 
+section Perm
+
+open Equiv Equiv.Perm
+
+variable {α : Type*} [Fintype α] [DecidableEq α] {G : SimpleGraph α}
+
+/-- Given a cyclic permutation with full support on at least 3 elements which
+sends each vertex to an adjacent one, then the graph is hamiltonian. -/
+theorem IsHamiltonian.ofPerm {σ : Perm α}
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Hamiltonian.lean]:
```suggestion
theorem IsHamiltonian.of_perm {σ : Perm α}
```

File: Mathlib/Combinatorics/SimpleGraph/Walk/Iterate.lean [hunk 34]
```diff
@@ -0,0 +1,60 @@
...
+public import Mathlib.Data.List.Iterate
+
+/-!
+# Walks from iterated functions
+
+Given a function `f : α → α` such that `G.Adj x (f x)` for all `x`,
+we construct a walk of length `n` from `x` to `f^[n] x`.
+-/
+
+@[expose] public section
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Walk/Iterate.lean]: Please move this to the definitions that need it, if any
```suggestion
public section
```

File: Mathlib/Data/List/Chain.lean [hunk 35]
```diff
@@ -444,6 +444,13 @@ lemma IsChain.iterate_eq_of_apply_eq {α : Type*} {f : α → α} {l : List α}
 theorem isChain_replicate_of_rel (n : ℕ) {a : α} (h : r a a) : IsChain r (replicate n a) := by
   induction n using Nat.twoStepInduction <;> grind
 
+/-- If `r a (f a)` holds for every `a`, then `List.iterate f a n` is a chain under `r`. -/
+theorem isChain_iterate {f : α → α} (a : α) (h : ∀ a, r a (f a)) :
+    ∀ n, IsChain r (iterate f a n)
```
Comment (YaelDillies) [inline Mathlib/Data/List/Chain.lean]:
```suggestion
protected theorem IsChain.iterate {f : α → α} (a : α) (h : ∀ a, r a (f a)) :
    ∀ n, IsChain r (iterate f a n)
```
for dot notation

File: Mathlib/Data/List/Iterate.lean [hunk 36]
```diff
@@ -38,6 +38,11 @@ theorem getElem_iterate (f : α → α) (a : α) (n : ℕ) (i : Nat) (h : i < (i
     (iterate f a n)[i] = f^[i] a :=
   (getElem_eq_iff _).2 <| getElem?_iterate _ _ _ _ <| by rwa [length_iterate] at h
 
+theorem getLast_iterate (f : α → α) (a : α) (n : ℕ) (h : iterate f a (n + 1) ≠ []) :
+    (iterate f a (n + 1)).getLast h = f^[n] a := by
```
Comment (YaelDillies) [inline Mathlib/Data/List/Iterate.lean]:
```suggestion
theorem getLast_iterate (f : α → α) (a : α) (n : ℕ) (h : iterate f a n ≠ []) :
    (iterate f a n).getLast h = f^[n - 1] a := by
```
This is true and has a more syntactically general LHS

File: Mathlib/GroupTheory/Perm/Cycle/Concrete.lean [hunk 37]
```diff
@@ -185,6 +185,19 @@ end Cycle
 
 namespace Equiv.Perm
 
+/-- For a cycle `f` on a finset `s` of cardinality at least 3 and `a ∈ s`, the unordered
+pair `s((f ^ k) a, (f ^ (k + 1)) a)` differs from `s(a, f a)` when `1 ≤ k < s.card`. -/
+theorem IsCycleOn.sym2_pow_apply_ne {f : Perm α} {a : α} {s : Finset α}
+    (hcycOn : f.IsCycleOn s) (ha : a ∈ s)
+    {k : ℕ} (hk1 : 1 ≤ k) (hk2 : k < s.card) (hs : 3 ≤ s.card) :
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/Perm/Cycle/Concrete.lean]:
```suggestion
    {k : ℕ} (hk1 : k \ne 0) (hk2 : k < s.card) (hs : 3 ≤ s.card) :
```

File: Mathlib/GroupTheory/Perm/Cycle/Concrete.lean [hunk 38]
```diff
@@ -185,6 +185,19 @@ end Cycle
...
+    s((f ^ k) a, (f ^ (k + 1)) a) ≠ s(a, f a) := by
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/Perm/Cycle/Concrete.lean]: Can you more generally prove injectivity of `fun k => s((f ^ k) a, (f ^ (k + 1)) a)`?

File: Mathlib/GroupTheory/Perm/Cycle/Concrete.lean [hunk 39]
```diff
@@ -204,6 +217,11 @@ theorem toList_eq_nil_iff {p : Perm α} {x} : toList p x = [] ↔ x ∉ p.suppor
 @[simp]
 theorem length_toList : length (toList p x) = (cycleOf p x).support.card := by simp [toList]
 
+/-- `toList` expressed as a map of powers: `toList p x = [x, p x, p² x, …]`. -/
+theorem toList_eq_range_map_pow :
+    toList p x = (List.range (toList p x).length).map fun i => (p ^ i) x := by
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/Perm/Cycle/Concrete.lean]: According to `length_toList` your RHS isn't in simp nf

File: Mathlib/Combinatorics/SimpleGraph/Hamiltonian.lean (hunk 30 above)
Comment (jessealama) [reply Mathlib/Combinatorics/SimpleGraph/Hamiltonian.lean]: Good point, thanks. I've replaced `omega` with `lia`.

File: Mathlib/GroupTheory/Perm/Cycle/Concrete.lean (hunk 37 above)
Comment (jessealama) [reply Mathlib/GroupTheory/Perm/Cycle/Concrete.lean]: Nice! Done.

File: Mathlib/GroupTheory/Perm/Cycle/Concrete.lean (hunk 39 above)
Comment (jessealama) [reply Mathlib/GroupTheory/Perm/Cycle/Concrete.lean]: Ah, right. Fixed.

File: Mathlib/GroupTheory/Perm/Cycle/Concrete.lean (hunk 38 above)
Comment (jessealama) [reply Mathlib/GroupTheory/Perm/Cycle/Concrete.lean]: Ooh, nice! Yes, we can. I've taken care of that. We now have `IsCycleOn.injOn_sym2_pow_apply`, which makes `sym2_pow_apply_ne` a simple corollary.

File: Mathlib/Combinatorics/SimpleGraph/Walk/Iterate.lean (hunk 34 above)
Comment (jessealama) [reply Mathlib/Combinatorics/SimpleGraph/Walk/Iterate.lean]: Done!

**Comment by jessealama** [comment]
-awaiting-author

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer merge

File: Mathlib/Combinatorics/SimpleGraph/Hamiltonian.lean [hunk 40]
```diff
@@ -8,6 +8,8 @@ module
 public import Mathlib.Algebra.GroupWithZero.Nat
 public import Mathlib.Algebra.Order.Group.Nat
 public import Mathlib.Combinatorics.SimpleGraph.Connectivity.Connected
+public import Mathlib.Combinatorics.SimpleGraph.Walk.Iterate
+public import Mathlib.GroupTheory.Perm.Cycle.Concrete
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Hamiltonian.lean]: I think the `Perm` results should be split to a separate file, this import increases the dependencies of `Hamiltonian` by 40% and it's already difficult to import this file in other places because it depends on a lot of stuff even without `Perm`.

File: Mathlib/Combinatorics/SimpleGraph/Hamiltonian.lean [hunk 41]
```diff
@@ -207,6 +209,15 @@ lemma isHamiltonianCycle_iff_isCycle_and_length_eq [Fintype α] :
...
   grind [length_tail_add_one, IsCycle.not_nil]
 
+/-- A Hamiltonian path closed into a cycle by an edge outside its support is a Hamiltonian cycle,
+and conversely. -/
+theorem cons_isHamiltonianCycle_iff {x y : α} (h : G.Adj x y) (p : G.Walk y x) :
+    (Walk.cons h p).IsHamiltonianCycle ↔ p.IsHamiltonian ∧ s(x, y) ∉ p.edges := by
+  have htail : (cons h p).tail.IsHamiltonian ↔ p.IsHamiltonian := by
+    simp [IsHamiltonian, tail_cons, support_copy]
+  rw [isHamiltonianCycle_isCycle_and_isHamiltonian_tail, cons_isCycle_iff, htail]
+  exact ⟨fun ⟨⟨_, hedge⟩, hp⟩ ↦ ⟨hp, hedge⟩, fun ⟨hp, hedge⟩ ↦ ⟨⟨hp.isPath, hedge⟩, hp⟩⟩
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Hamiltonian.lean]:
```suggestion
theorem isHamiltonianCycle_cons_iff {x y : α} (h : G.Adj x y) (p : G.Walk y x) :
    (p.cons h).IsHamiltonianCycle ↔ p.IsHamiltonian ∧ s(x, y) ∉ p.edges := by
  rw [isHamiltonianCycle_isCycle_and_isHamiltonian_tail, cons_isCycle_iff, tail_cons]
  grind [IsHamiltonian.isPath, isHamiltonian_copy, getVert_cons_succ]
```
using
```lean
theorem isHamiltonian_copy {u v u' v' : α} (p : G.Walk u v) (hu : u = u') (hv : v = v') :
    (p.copy hu hv).IsHamiltonian ↔ p.IsHamiltonian := by
  simp [IsHamiltonian, support_copy]
```

File: Mathlib/Combinatorics/SimpleGraph/Walk/Iterate.lean [hunk 42]
```diff
@@ -0,0 +1,60 @@
...
+
+namespace Walk
+
+variable {α : Type*} {G : SimpleGraph α}
+
+/-- Build a walk of length `n` from `x` to `f^[n] x` following `f`,
+given that each step is adjacent in `G`. -/
+def iterate (f : α → α) (hadj : ∀ x, G.Adj x (f x)) (x : α) (n : ℕ) : G.Walk x (f^[n] x) :=
+  (Walk.ofSupport _ (by simp) (List.IsChain.iterate x hadj (n + 1))).copy rfl
+    (List.getLast_iterate f x (n + 1) (by simp))
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Walk/Iterate.lean]:
```suggestion
/-- Build a walk of length `n` from `v` to `f^[n] v` following `f`,
given that each step is adjacent in `G`. -/
def iterate (f : V → V) (hadj : ∀ v, G.Adj v (f v)) (v : α) (n : ℕ) : G.Walk v (f^[n] v) :=
  (Walk.ofSupport _ (by simp) <| .iterate v hadj <| n + 1).copy rfl <|
    List.getLast_iterate f v (n + 1) <| by simp
```

File: Mathlib/Combinatorics/SimpleGraph/Walk/Iterate.lean [hunk 43]
```diff
@@ -0,0 +1,60 @@
...
+
+/-- The walk built by `Walk.iterate` has length `n`. -/
+@[simp]
+theorem length_iterate (f : α → α) (hadj : ∀ x, G.Adj x (f x)) (x : α) (n : ℕ) :
+    (iterate f hadj x n).length = n := by
+  simp only [iterate, length_copy, length_ofSupport, List.length_iterate, Nat.add_sub_cancel]
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Walk/Iterate.lean]:
```suggestion
theorem length_iterate (f : V → V) (hadj : ∀ v, G.Adj v (f v)) (v : V) (n : ℕ) :
    (iterate f hadj v n).length = n := by
  simp [iterate, -List.iterate]
```

File: Mathlib/Combinatorics/SimpleGraph/Walk/Iterate.lean [hunk 44]
```diff
@@ -0,0 +1,60 @@
...
+
+namespace SimpleGraph
+
+namespace Walk
+
+variable {α : Type*} {G : SimpleGraph α}
+
+/-- Build a walk of length `n` from `x` to `f^[n] x` following `f`,
+given that each step is adjacent in `G`. -/
+def iterate (f : α → α) (hadj : ∀ x, G.Adj x (f x)) (x : α) (n : ℕ) : G.Walk x (f^[n] x) :=
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Walk/Iterate.lean]: Can you move the proof argument to be the last, so that users can more easily write a multiline tactic proof if necessary using `iterate f v n <| by ...`?
And also the same for theorems

File: Mathlib/Combinatorics/SimpleGraph/Walk/Iterate.lean [hunk 45]
```diff
@@ -0,0 +1,60 @@
...
+@[simp]
+theorem length_iterate (f : α → α) (hadj : ∀ x, G.Adj x (f x)) (x : α) (n : ℕ) :
+    (iterate f hadj x n).length = n := by
+  simp only [iterate, length_copy, length_ofSupport, List.length_iterate, Nat.add_sub_cancel]
+
+/-- The support of `Walk.iterate` is `[x, f x, f^[2] x, ..., f^[n] x]`. -/
+@[simp]
+theorem support_iterate (f : α → α) (hadj : ∀ x, G.Adj x (f x)) (x : α) (n : ℕ) :
+    (iterate f hadj x n).support = List.iterate f x (n + 1) := by
+  simp only [iterate, support_copy, support_ofSupport]
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Walk/Iterate.lean]:
```suggestion
/-- The support of `Walk.iterate` is `[v, f v, f^[2] v, ..., f^[n] v]`. -/
@[simp]
theorem support_iterate (f : V → V) (hadj : ∀ v, G.Adj v (f v)) (v : V) (n : ℕ) :
    (iterate f hadj v n).support = List.iterate f v (n + 1) := by
  simp [iterate, -List.iterate]
```

File: Mathlib/Combinatorics/SimpleGraph/Walk/Iterate.lean [hunk 46]
```diff
@@ -0,0 +1,60 @@
...
+theorem edges_iterate (f : α → α) (hadj : ∀ x, G.Adj x (f x)) (x : α) (n : ℕ) :
+    (iterate f hadj x n).edges = (List.range n).map fun i ↦ s(f^[i] x, f^[i + 1] x) := by
+  simp only [edges_eq_zipWith_support, support_iterate]
+  induction n generalizing x with
+  | zero => simp
+  | succ n ih =>
+    simp only [List.iterate, List.zipWith, List.tail_cons, List.range_succ_eq_map,
+      List.map_cons, iterate_zero, id_eq, List.map_map]
+    congr 1
+    convert ih (f x) using 1
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Walk/Iterate.lean]:
```suggestion
/-- The edges of `Walk.iterate` are `s(f^[i] v, f^[i+1] v)` for `i < n`. -/
theorem edges_iterate (f : V → V) (hadj : ∀ v, G.Adj v (f v)) (v : V) (n : ℕ) :
    (iterate f hadj v n).edges = (List.range n).map fun i ↦ s(f^[i] v, f^[i + 1] v) := by
  rw [edges_eq_zipWith_support, support_iterate]
  induction n generalizing v with
  | zero => simp
  | succ n ih => simpa [List.range_succ_eq_map] using congr(s(v, f v) :: $(ih <| f v))
```

File: Mathlib/Combinatorics/SimpleGraph/Hamiltonian.lean (hunk 40 above)
Comment (jessealama) [reply Mathlib/Combinatorics/SimpleGraph/Hamiltonian.lean]: Good idea. I've split things up. The only thing left in `Hamiltonian.lean` is `cons_isHamiltonianCycle_iff` (which has been renamed).

File: Mathlib/Combinatorics/SimpleGraph/Walk/Iterate.lean (hunk 44 above)
Comment (jessealama) [reply Mathlib/Combinatorics/SimpleGraph/Walk/Iterate.lean]: Great suggestion. Done.

File: Mathlib/Combinatorics/SimpleGraph/Walk/Iterate.lean [hunk 47]
```diff
@@ -0,0 +1,56 @@
...
+
+public section
+
+open Function
+
+namespace SimpleGraph
+
+namespace Walk
+
+variable {α : Type*} {G : SimpleGraph α}
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Walk/Iterate.lean]: I think `V` is preferred for graphs (I know the `Hamiltonian` file uses `α` but it's strange)
```suggestion
variable {V : Type*} {G : SimpleGraph α}
```

File: Mathlib/Combinatorics/SimpleGraph/Hamiltonian/Perm.lean [hunk 48]
```diff
@@ -0,0 +1,66 @@
...
+
+namespace SimpleGraph
+
+variable {α : Type*} [Fintype α] [DecidableEq α] {G : SimpleGraph α}
+
+/-- Given a cyclic permutation with full support on at least 3 elements which
+sends each vertex to an adjacent one, then the graph is hamiltonian. -/
+theorem IsHamiltonian.of_perm {σ : Perm α}
+    (hcycle : σ.IsCycle) (hsupport : σ.support = .univ)
+    (hadj : ∀ x, G.Adj x (σ x))
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Hamiltonian/Perm.lean]:
```suggestion
    (hadj : ∀ v, G.Adj v (σ v))
```
`v` for vertex. We also commonly use `u` if you prefer it.

Comment (jessealama) [reply Mathlib/Combinatorics/SimpleGraph/Hamiltonian/Perm.lean]: Either sounds good. Let's use `V` and `v`.

**Comment by SnirBroshi** [comment]
Hey, could you please avoid force-pushing if possible? This PR has been maintainer-merged a few weeks ago, but since then there have been multiple force-pushes and I think it's impossible to tell in the GitHub UI which parts of the code are covered by the maintainer-merge, and which are completely new code which wasn't reviewed.

**Comment by jessealama** [comment]
> Hey, could you please avoid force-pushing if possible? This PR has been maintainer-merged a few weeks ago, but since then there have been multiple force-pushes and I think it's impossible to tell in the GitHub UI which parts of the code are covered by the maintainer-merge, and which are completely new code which wasn't reviewed.

Oh, whoops, sorry about that! The force pushes are just me using the web UI to make sure we don't get too far out-of-date with main. There are no changes. The last actual change were a couple of suggestions you made a while ago, but apart from that, the force pushes are just me rebasing on top of main. I didn't realize it might cause confusion.

**Comment by vlad902** [comment]
In #35255 and #34799 I prove an equivalence between G being Hamiltonian and it containing a cycle graph on the total number of vertices. I have left some sorries, but your main proof would then just be an immediate corollary of
```lean4
theorem IsHamiltonian.of_perm {σ : Perm α}
    (hcycle : σ.IsCycle) (hsupport : σ.support = .univ)
    (hadj : ∀ v, G.Adj v (σ v))
    (hcard3 : 3 ≤ Fintype.card α) : cycleGraph (Fintype.card α) ⊑ G := by
  obtain v : α := sorry -- pick arbitrary starting element
  refine ⟨?_, ?_⟩
  · refine ⟨fun i ↦ σ^[i] v, fun {i j} h ↦ ?_⟩
    rcases cycleGraph_adj'.mp h with h | h
    · have : i.1 = j.1 + 1 := sorry
      rw [this, add_comm, iterate_add_apply, adj_comm]
      simp_all
    · have : j.1 = i.1 + 1 := sorry
      rw [this, add_comm, iterate_add_apply]
      simp_all
  · simp
    sorry
```

This seems like it may be considerably simpler, though perhaps I've missed something obvious? Also, this statement seems like it could be generalized to the permutation being on a subset of the carrier set of the graph.

**Comment by vlad902** [comment]
This is very ugly and could be seriously golfed but its sorry free and is less than half the length of the original
```lean4
import Mathlib.Combinatorics.SimpleGraph.Hamiltonian
import Mathlib.Combinatorics.SimpleGraph.Circulant
import Mathlib.GroupTheory.Perm.Cycle.Concrete

public section

open Finset Function Equiv Equiv.Perm

namespace SimpleGraph

theorem NAMETODO {α : Type*} {f : Perm α} {a : α} {s : Finset α}
    (hf : f.IsCycleOn s) (ha : a ∈ s) :
    Function.Injective fun (i : Fin (Fintype.card s)) ↦ (f ^ i.1) a := by
  by_contra hh
  obtain ⟨i, j, h₁, h₂⟩ := not_injective_iff.mp hh
  rw [Equiv.Perm.IsCycleOn.pow_apply_eq_pow_apply hf ha] at h₁
  grind [Nat.ModEq.eq_of_lt_of_lt, Fintype.card_coe]

variable {α : Type*} [Fintype α] [DecidableEq α] {G : SimpleGraph α}

theorem IsHamiltonian.of_perm {σ : Perm α}
    (hcycle : σ.IsCycle) (hsupport : σ.support = .univ)
    (hadj : ∀ v, G.Adj v (σ v))
    (hcard3 : 3 ≤ Fintype.card α) : cycleGraph (Fintype.card α) ⊑ G := by
  obtain v : α := Classical.choice <| Fintype.card_pos_iff.mp (by lia)
  refine ⟨?_, ?_⟩
  · refine ⟨fun i ↦ σ^[i] v, fun {i j} h ↦ ?_⟩
    wlog h' : i < j generalizing i j
    · have h'' : i ≠ j := fun _ ↦ by simp_all
      exact this h.symm (by lia) |>.symm
    rcases cycleGraph_adj'.mp h with h | h
    · have : i.1 = 0 ∧ j.1 = Fintype.card α - 1 := by grind [Fin.coe_sub_iff_lt]
      rw [this.1, this.2]
      rw [adj_comm]
      have : (σ ((⇑σ)^[Fintype.card α - 1] v)) = (⇑σ)^[Fintype.card α - 1 + 1] v := by
        exact Eq.symm (iterate_succ_apply' (⇑σ) (Fintype.card α - 1) v)
      have a1 : (σ ((⇑σ)^[Fintype.card α - 1] v)) = (⇑σ)^[Fintype.card α] v := by grind
      have a2 : (⇑σ)^[Fintype.card α] v = (⇑σ)^[0] v := by
        have a3 := Equiv.Perm.IsCycleOn.pow_card_apply
          (by simp [hcycle.isCycleOn] : σ.IsCycleOn {x | σ x ≠ x}.toFinset)
          (by grind [Adj.ne'] : v ∈ _)
        have : {x | ¬σ x = x} = σ.support := by simp [Equiv.Perm.support]
        simp_rw [this] at a3
        simp [hsupport] at a3
        simpa
      have := hadj ((⇑σ)^[Fintype.card α - 1] v)
      rw [a1, a2] at this
      exact this
    · have : j.1 = i.1 + 1 := by grind [Fin.sub_val_of_le]
      rw [this, add_comm, iterate_add_apply]
      simp_all
  · have a1 := NAMETODO (by simp [hcycle.isCycleOn] : σ.IsCycleOn {x | σ x ≠ x}.toFinset)
      (by grind [Adj.ne'] : v ∈ _)
    have : Fintype.card ↥{x | σ x ≠ x}.toFinset = Fintype.card α := by
      have : {x | ¬σ x = x} = σ.support := by simp [Equiv.Perm.support]
      simp_rw [this]
      simp [hsupport]
    rw [this] at a1
    simpa
```

**Comment by vlad902** [comment]
I had a little more time, so here's a more golfed version of the last theorem. I also weakened the hcard hypothesis and generalized it to arbitrary sub-cycles of a permutation. Total LOC is just under 1/3rd of the current PR
```lean4
theorem NAMETODO {α : Type*} {f : Perm α} {a : α} {s : Finset α} (hf : f.IsCycleOn s) (ha : a ∈ s) :
    Function.Injective fun (i : Fin #s) ↦ (f ^ i.1) a := by
  by_contra hh
  obtain ⟨i, j, h₁, h₂⟩ := not_injective_iff.mp hh
  rw [hf.pow_apply_eq_pow_apply ha] at h₁
  grind [Nat.ModEq.eq_of_lt_of_lt, Fintype.card_coe]

variable {α : Type*} [Fintype α] [DecidableEq α] {G : SimpleGraph α}

theorem cycleGraph_embedding (s : Finset α) {σ : Perm α} (hcycle : σ.IsCycle)
    (hsupport : σ.support = s) (hadj : ∀ v, G.Adj v (σ v)) (hcard : 1 ≤ #s) :
    cycleGraph #s ⊑ G := by
  obtain ⟨v, hv⟩ := Classical.choice <| Nonempty.to_subtype <| card_pos.mp hcard
  have hc : σ.IsCycleOn s := by simpa [Equiv.Perm.support, ← hsupport] using hcycle.isCycleOn
  refine ⟨⟨fun i ↦ σ^[i] v, fun {i j} h ↦ ?_⟩, NAMETODO hc hv⟩
  wlog h' : i < j generalizing i j
  · exact this h.symm (by grind [SimpleGraph.irrefl]) |>.symm
  rcases cycleGraph_adj'.mp h with h | h
  · have : i.1 = 0 ∧ j.1 = #s - 1 := by grind [Fin.coe_sub_iff_lt]
    rw [this.1, this.2, adj_comm]
    suffices σ (σ^[#s - 1] v) = v by simpa [this] using hadj (σ^[#s - 1] v)
    rw [← iterate_succ_apply' σ, show (#s - 1).succ = #s by lia]
    exact hc.pow_card_apply hv
  · rw [show j.1 = i.1 + 1 by grind [Fin.sub_val_of_le], add_comm, iterate_add_apply]
    simp_all
    
theorem IsHamiltonian.of_perm {σ : Perm α} (hcycle : σ.IsCycle) (hsupport : σ.support = .univ)
    (hadj : ∀ v, G.Adj v (σ v)) (hcard : 2 < Fintype.card α) : G.IsHamiltonian := by
  have := cycleGraph_embedding .univ hcycle hsupport hadj (by grind)
  exact isHamiltonian_iff_cycleGraph_isContained hcard |>.mpr this
```

Still could use some more golfing and clean-up but I'll leave the rest.

**Comment by jessealama** [comment]
> I had a little more time, so here's a more golfed version of the last theorem. I also weakened the hcard hypothesis and generalized it to arbitrary sub-cycles of a permutation. Total LOC is just under 1/3rd of the current PR
> 
> ```lean4
> theorem NAMETODO {α : Type*} {f : Perm α} {a : α} {s : Finset α} (hf : f.IsCycleOn s) (ha : a ∈ s) :
>     Function.Injective fun (i : Fin #s) ↦ (f ^ i.1) a := by
>   by_contra hh
>   obtain ⟨i, j, h₁, h₂⟩ := not_injective_iff.mp hh
>   rw [hf.pow_apply_eq_pow_apply ha] at h₁
>   grind [Nat.ModEq.eq_of_lt_of_lt, Fintype.card_coe]
> 
> variable {α : Type*} [Fintype α] [DecidableEq α] {G : SimpleGraph α}
> 
> theorem cycleGraph_embedding (s : Finset α) {σ : Perm α} (hcycle : σ.IsCycle)
>     (hsupport : σ.support = s) (hadj : ∀ v, G.Adj v (σ v)) (hcard : 1 ≤ #s) :
>     cycleGraph #s ⊑ G := by
>   obtain ⟨v, hv⟩ := Classical.choice <| Nonempty.to_subtype <| card_pos.mp hcard
>   have hc : σ.IsCycleOn s := by simpa [Equiv.Perm.support, ← hsupport] using hcycle.isCycleOn
>   refine ⟨⟨fun i ↦ σ^[i] v, fun {i j} h ↦ ?_⟩, NAMETODO hc hv⟩
>   wlog h' : i < j generalizing i j
>   · exact this h.symm (by grind [SimpleGraph.irrefl]) |>.symm
>   rcases cycleGraph_adj'.mp h with h | h
>   · have : i.1 = 0 ∧ j.1 = #s - 1 := by grind [Fin.coe_sub_iff_lt]
>     rw [this.1, this.2, adj_comm]
>     suffices σ (σ^[#s - 1] v) = v by simpa [this] using hadj (σ^[#s - 1] v)
>     rw [← iterate_succ_apply' σ, show (#s - 1).succ = #s by lia]
>     exact hc.pow_card_apply hv
>   · rw [show j.1 = i.1 + 1 by grind [Fin.sub_val_of_le], add_comm, iterate_add_apply]
>     simp_all
>     
> theorem IsHamiltonian.of_perm {σ : Perm α} (hcycle : σ.IsCycle) (hsupport : σ.support = .univ)
>     (hadj : ∀ v, G.Adj v (σ v)) (hcard : 2 < Fintype.card α) : G.IsHamiltonian := by
>   have := cycleGraph_embedding .univ hcycle hsupport hadj (by grind)
>   exact isHamiltonian_iff_cycleGraph_isContained hcard |>.mpr this
> ```
> 
> Still could use some more golfing and clean-up but I'll leave the rest.

This is fantastic! I love it. I'm happy to update this PR to depend on your two PRs, so that we can merge in a much more streamlined result.

**Comment by faenuccio** [comment]
@YaelDillies After all these issues, I've removed the `maintainer-merge`. If you're still happy, can you add it again?

File: Mathlib/Combinatorics/SimpleGraph/Hamiltonian.lean [hunk 49]
```diff
@@ -207,6 +207,17 @@ lemma isHamiltonianCycle_iff_isCycle_and_length_eq [Fintype α] :
...
   grind [length_tail_add_one, IsCycle.not_nil]
 
+theorem isHamiltonian_copy {u v u' v' : α} (p : G.Walk u v) (hu : u = u') (hv : v = v') :
+    (p.copy hu hv).IsHamiltonian ↔ p.IsHamiltonian := by
+  simp [IsHamiltonian, support_copy]
+
+/-- A Hamiltonian path closed into a cycle by an edge outside its support is a Hamiltonian cycle,
+and conversely. -/
+theorem isHamiltonianCycle_cons_iff {x y : α} (h : G.Adj x y) (p : G.Walk y x) :
+    (p.cons h).IsHamiltonianCycle ↔ p.IsHamiltonian ∧ s(x, y) ∉ p.edges := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Hamiltonian.lean:217]: Simp?

File: Mathlib/Combinatorics/SimpleGraph/Walk/Iterate.lean [hunk 50]
```diff
@@ -0,0 +1,56 @@
...
+    (iterate f v n hadj).support = List.iterate f v (n + 1) := by
+  simp [iterate, -List.iterate]
+
+/-- The edges of `Walk.iterate` are `s(f^[i] v, f^[i+1] v)` for `i < n`. -/
+theorem edges_iterate (f : V → V) (v : V) (n : ℕ) (hadj : ∀ v, G.Adj v (f v)) :
+    (iterate f v n hadj).edges = (List.range n).map fun i ↦ s(f^[i] v, f^[i + 1] v) := by
+  rw [edges_eq_zipWith_support, support_iterate]
+  induction n generalizing v with
+  | zero => simp
+  | succ n ih => simpa [List.range_succ_eq_map] using congr(s(v, f v) :: $(ih <| f v))
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Walk/Iterate.lean:52]: What lemmas are we miss for this proof to work?
```suggestion
  simp [iterate]
```

File: Mathlib/Combinatorics/SimpleGraph/Hamiltonian/Perm.lean [hunk 51]
```diff
@@ -0,0 +1,66 @@
...
+theorem IsHamiltonian.of_perm {σ : Perm α}
+    (hcycle : σ.IsCycle) (hsupport : σ.support = .univ)
+    (hadj : ∀ v, G.Adj v (σ v))
+    (hcard3 : 3 ≤ Fintype.card α) : G.IsHamiltonian := by
+  intro _
+  obtain ⟨x, hx_mem⟩ := hcycle.nonempty_support
+  have hx : σ x ≠ x := σ.mem_support.mp hx_mem
+  have hcycOn : σ.IsCycleOn (Finset.univ : Finset α) :=
+    hsupport ▸ σ.coe_support_eq_set_support ▸ hcycle.isCycleOn
+  set p : G.Walk (σ x) x := (Walk.iterate (↑σ) (σ x) (Fintype.card α - 1) hadj).copy rfl (by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Hamiltonian/Perm.lean:39]: I thought the whole point of `Walk.iterate` was that its second endpoint is `f^[n] x` on the nose, but then you use `Walk.copy` here again? Are you sure `Walk.iterate isn't worth inlining?

**Comment by YaelDillies** [comment]
Oh but this PR depends on others now

**Comment by faenuccio** [comment]
> Oh but this PR depends on others now

Unfortunately yes... :cry:
